US05559230
To a solution of 1-(4-aminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (3.0 g) in dichloromethane (50 ml) is added succinic anhydride (1.4 g) and the mixture is stirred at room temperature for 4.5 hours. The reaction mixture is evaporated under reduced pressure in order to remove the solvent therefrom, and the resulting crystal is recrystallized from ethyl acetate to give 1-[4-(3-carboxypropionylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (3.61 g) as colorless needles, m.p. 192° C.

reactant | 1-(4-aminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 3.0 g | NC1=CC=C(C(=O)N2CCCCC3=C2C=CC=C3)C=C1 | C17H18N2O
reactant | succinic anhydride | 1.4 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-[4-(3-carboxypropionylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 3.61 g | C(=O)(O)CCC(=O)NC1=CC=C(C(=O)N2CCCCC3=C2C=CC=C3)C=C1 | C21H22N2O4
